US04237054
A mixture of 5-[(2RS,3SR)-3-acetoxy-6-[(E)-2-acetoxyethylidene]-2-methyl-2-oxepanyl]-2-methyl-1-(tetrahydropyran-2-yloxy)pentane (1.2 g, 2.73 mM), methanol (10 ml) and saturated potassium carbonate (1 ml) and water (1 ml) is stirred under nitrogen at room temperature for three hours. Most of the solvent is removed in vacuo to give a thick oil. This crude material is filtered through a silica gel column (15 g) and washed with ether (100 ml). The solvent is removed in vacuo to give 5-[(2RS,3SR)-3-hydroxy-6-[(E)-2-hydroxyethylidene]-2-methyl-2-oxepanyl]-2-methyl-1-(tetrahydropyran-2-yloxy)pentane (0.953 g, 87%) as a colorless oil.

reactant | 5-[(2RS,3SR)-3-acetoxy-6-[(E)-2-acetoxyethylidene]-2-methyl-2-oxepanyl]-2-methyl-1-(tetrahydropyran-2-yloxy)pentane | 2.73 mM, 1.2 g | C(C)(=O)OC1C(OC/C(/CC1)=C/COC(C)=O)(C)CCCC(COC1OCCCC1)C | C24H40O7
reactant | methanol | 10 ml | CO | CH4O
reactant | potassium carbonate | 1 ml | C([O-])([O-])=O.[K+].[K+]
solvent | water | 1 ml | O | H2O
product | 5-[(2RS,3SR)-3-hydroxy-6-[(E)-2-hydroxyethylidene]-2-methyl-2-oxepanyl]-2-methyl-1-(tetrahydropyran-2-yloxy)pentane | 0.953 g, 87% | OC1C(OC/C(/CC1)=C/CO)(C)CCCC(COC1OCCCC1)C | C20H36O5
